US06610701B2
Step B. 2-Bromomethylphenylacetic acid t-butyl ester
To a solution of 80 g (0.349 mol) 2-bromomethylphenylacetic acid in 700 mL 1,4-dioxane in a 2 L heavy-walled flask was added 84 mL (1.571 mol) concentrated sulfuric acid at ambient temperature. The reaction mixture was chilled to −15° C., and 580 mL isobutylene was condensed directly into the reaction vessel. The sealed pressure flask was shaken mechanically at room temperature for 4 h (the pressure inside the flask rises to ca. 20 psi during this step). The mixture was carefully quenched by slowly pouring it into a 0-5° C. stirred mixture of 1.2 L tert-butyl methyl ether and 336 g (4.0 mol) solid sodium bicarbonate before slow dilution with 1.2 L ice-water. The separated organic phase was washed with 0.8 L brine, dried with sodium sulfate, filtered concentrated in vacuo to give an oil, which was used without further purification.

reactant | 2-bromomethylphenylacetic acid | 0.349 mol, 80 g | BrCC1=C(C=CC=C1)CC(=O)O | C9H9BrO2
reactant | sulfuric acid | 1.571 mol, 84 mL | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | 580 mL | CC(C)=C | C4H8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 700 mL | O1CCOCC1 | C4H8O2
solvent | tert-butyl methyl ether | 1.2 L | COC(C)(C)C | C5H12O
product | 2-Bromomethylphenylacetic acid t-butyl ester | C(C)(C)(C)OC(CC1=C(C=CC=C1)CBr)=O | C13H17BrO2
